US07250410B2
7-methoxy-1-methyl-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one, IIdl.
By replacing 7,8-dimethoxy-5-phenyl-1,3-dihydro-1,4-benzodiazepin-2-one (XXIIaa) in the example by 7-methoxy-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one (XXIIao), and ethylene-carbonate by iodomethane, and proceeding in the same manner, the abovenamed product is obtained. Yield: 55%. M: 10–112° C. 1H-NMR (CDCl3, 300 MHz): d 3.38 (s, 3H, NCH3), 3.75 (s, 3H, OCH3), 4.30 (AB system, ? d=1.00, JAB=10.6, 2H, —CH2), 6.77–6.78 (m, 1H Ar), 7.09–7.14 (m, 1H Ar), 7.31 (s, 1H Ar), 7.38–7.46 (m, 3H Ar), 7.44–7.67 (m, 2H Ar).

reactant | 7-methoxy-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one | COC=1C=CC2=C(C(=NCC(N2)=O)C2=CC=CC=C2)C1 | C16H14N2O2
reactant | iodomethane | IC | CH3I
product | 7-methoxy-1-methyl-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one | Yield: 55% | COC=1C=CC2=C(C(=NCC(N2C)=O)C2=CC=CC=C2)C1 | C17H16N2O2
